US06174901B1
Procedure for Preparation of 2-amino-[4,4′]-bipyridine
The title compound was prepared by heating 2-chloro-[4,4′]bipyridinyl and NH4OH (30% in H2O) in a bomb at 210° C. for 48 hours: MS (m/z): Calcd. C10H9N3 (M+): 171, found (M+H)+: 172.1

reactant | 2-chloro-[4,4′]bipyridinyl | ClC1=NC=CC(=C1)C1=CC=NC=C1 | C10H7ClN2
reactant | NH4OH | [NH4+].[OH-]
product | 2-amino-[4,4′]-bipyridine | NC1=NC=CC(=C1)C1=CC=NC=C1 | C10H9N3
